US05321135
Synthesis of 1-(3,4-dimethoxyphenyl)-4-(3,4,5-trimethoxyphenyl)butane
Suspended in 15 ml of THF were 1.23 g (2.2 mmol) of triphenyl[3-(3,4,5-trimethoxyphenyl)propyl]phosphonium bromide. The suspension was added with 1.4 ml (1.57M, 2.2 mmol) of butyl lithium in hexane under ice cooling, followed by stirring for one hour. The reaction mixture was further added with 365 mg (2.2 mmol) of 3,4-dimethoxybenzaldehyde, followed by stirring at room temperature for 21 hours. After the reaction mixture was dissolved in 30 ml of ethyl acetate, the resulting solution was washed with water and then with saturated NaCl. The organic layer was then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The oil thus obtained (1.31 g) was purified by column chromatography (silica gel: "MERCK #9385", 30 g, eluent: 1:4 mixed solvent of ethyl acetate and hexane), whereby 403 mg of the title compound were obtained as colorless oil. The oil was immediately dissolved in 10 ml of ethyl acetate, followed by the addition of 10 mg of a 10% palladium-carbon catalyst. The resulting suspension was stirred at room temperature for 35 hours under a hydrogen atmosphere of 1 atm. Insoluble matter was removed by filtration and the filtrate was concentrated. The concentrate was purified by column chromatography (silica gel: "MERCK #9385", 10 g, eluent: 1:4 mixed solvent of ethyl acetate and hexane), whereby 198 mq of the title compound were obtained as a colorless solid (25%)

reactant | triphenyl[3-(3,4,5-trimethoxyphenyl)propyl]phosphonium bromide | 2.2 mmol, 1.23 g | [Br-].C1(=CC=CC=C1)[P+](CCCC1=CC(=C(C(=C1)OC)OC)OC)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyl lithium | 2.2 mmol, 1.57M, 1.4 ml | C(CCC)[Li]
reactant | 3,4-dimethoxybenzaldehyde | 2.2 mmol, 365 mg | COC=1C=C(C=O)C=CC1OC | C9H10O3
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-dimethoxyphenyl)-4-(3,4,5-trimethoxyphenyl)butane | 403 mg | COC=1C=C(C=CC1OC)CCCCC1=CC(=C(C(=C1)OC)OC)OC | C21H28O5
